US04436748
A mixture of 2.5 g of 6,7-dichloro-5-methoxy-3-methyl-2-phenyl benzo[b]thiophene and 20 g of pyridine hydrochloride is stirred at 185°-190° for 3 hours. The cooled mixture is triturated with water and extracted 3 times with ether. The combined ether extracts is washed with dilute hydrochloric acid, water and dried. Removal of solvent leaves a brownish solid which is purified by passing it through a silica gel column packed in hexane. Elution with 50:50 ether-hexane gave 1.8 g of 6,7-dichloro-5-hydroxy-3-methyl-2-phenylbenzo[b]thiophene as colorless crystals, mp 146°-147°. For analysis, a sample is recrystallized twice from ether-hexane (10% of ether) and dried at 100°.

reactant | 6,7-dichloro-5-methoxy-3-methyl-2-phenyl benzo[b]thiophene | 2.5 g | ClC=1C(=CC2=C(SC(=C2C)C2=CC=CC=C2)C1Cl)OC | C16H12Cl2OS
reactant | pyridine hydrochloride | 20 g | Cl.N1=CC=CC=C1
product | 6,7-dichloro-5-hydroxy-3-methyl-2-phenylbenzo[b]thiophene | 1.8 g | ClC=1C(=CC2=C(SC(=C2C)C2=CC=CC=C2)C1Cl)O | C15H10Cl2OS
